US06046232
Synthesis of α-(3-Methoxyphenyl)-N-tert-butylnitrone
The title compound was prepared according to the procedure described in Example 11 using 3-methoxybenzaldehyde and N-tert-butylhydroxylamine. The title compound was isolated in 56.5% overall yield as a crystalline solid, m.p. 93.4° C.

reactant | 3-methoxybenzaldehyde | COC=1C=C(C=O)C=CC1 | C8H8O2
reactant | N-tert-butylhydroxylamine | C(C)(C)(C)NO | C4H11NO
product | α-(3-Methoxyphenyl)-N-tert-butylnitrone | COC=1C=C(C=CC1)C=[N+]([O-])C(C)(C)C | C12H17NO2
